US07091353B2
Methyl {N-[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]carbamoyl}formate I-34
To a stirred suspension of 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione (0.55 g, 2.0 mmol) in THF (30 ml) was added methyl (chlorocarbonyl)formate (0.49 g, 4.0 mmol). The mixture was heated to reflux for 18 hours. The solvent was evaporated in vacuo and the resulting solid was slurried in diethyl ether (20 ml) and filtered to give 0.55 g (76%) of product as an off-white solid: mp 247–249° C.; 1H NMR (DMSO-d6) δ 11.17 (s, 1H), 10.81 (s, 1H), 8.59 (d, J=8.3 Hz, 1H), 7.92 (t, J=7.7 Hz, 1H), 7.70 (d, J=7.3 Hz, 1H), 5.19 (dd, J=5.0 and 12.5 Hz, 1H), 3.91 (s, 3H), 2.98–2.85 (m, 1H), 2.68–2.50 (m, 2H), 2.14–2.09 (m, 1H); 13C NMR (DMSO-d6) δ 172.70, 169.63, 168.03, 166.45, 159.81, 154.57, 136.65, 134.93, 131.36, 124.67, 119.34, 117.17, 53.80, 49.06, 30.92, 21.94; Anal. Calcd. For C18H13N3O7: C, 53.49; H, 3.65; N, 11.70. Found: C, 53.53; H, 3.66; N, 11.52.

reactant | 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione | 2.0 mmol, 0.55 g | NC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C13H11N3O4
reactant | methyl (chlorocarbonyl)formate | 4.0 mmol, 0.49 g | ClC(=O)C(=O)OC | C3H3ClO3
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | Methyl {N-[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]carbamoyl}formate | 0.55 g, 76% | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)NC(=O)C(=O)OC)=O)=O | C16H13N3O7
